* THS4532
*****************************************************************************
* (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.

*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: THS4532
* Date: 06MAR2013
* Model Type: ALL-IN-ONE
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SLOS829 –FEBRUARY 2013
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
*

* BEGIN FEATURES
* 5V Supply only
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE
* UGBW
* INPUT COMMON MODE VOLTAGE RANGE
* SLEW RATE
* tr and tf
* QUIESCENT CURRENT ON mode
* QUIESCENT CURRENT OFF mode
* OUTPUT CLAMPS TO RAILS
* PWD Mode
* END FEATURES
*
** BEGIN MODEL THS4532
* PINOUT ORDER +IN -IN Vcm +V -V OUT+ OUT- PDZ
* PINOUT ORDER  VIN+ VIN- VOCM VCC VEE VOUT+ VOUT- PD
.SUBCKT THS4532 VIN+ VIN- VOCM VCC VEE VOUT+ VOUT- PD

V_V17         N3337259 VZNEG DC 0 AC 0 0
Q_Q2         N3339183 VIN- N3338287 TI_PNP 
R_R29         VMID VZPOS  330k  
R_R6         N3338225 VCCX  2.5k  
C_C11         0 N3336111  400f  
X_F9    N3339183 VEEX N3337259 VEEX THS4531_F9 
E_E1         N3340803 0 VMID VZNEG 1
Q_Q14         VEEX VOCM N3336085 TI_PNP 
R_R17         VEEX N3339341  3k  
R_R27         N3336479 N3338503  200  
V_V4         N3336157 VEE 1.05Vdc
R_R20         VEE VOCM  10G  
V_V3         N3339361 VEE 1.05Vdc
E_E4         N3336659 0 VMID VZPOS 1
D_U3         VCCX N3339177 TI_D 
X_F1    N3336787 VEEX IQBN VEEX THS4531_F1 
V_V6         VVG N3338333 100mVdc
X_F4    VCCX N3338993 VZPOS VEEX THS4531_F4 
Q_Q25         IBMAIN N3336839 VEEX TI_NPN 
V_V11         VIN+ N3373550 80e-6
R_R24         0 N3336479  570k  
C_C6         N3336479 VZNEG  4.7p  
Q_Q24         N3336839 N3336839 N3337249 TI_NPN 
R_R15         N3338215 VCCX  3k  
X_F10    IBMAIN IQB1 VCCX N3337259 THS4531_F10 
X_S1    PD 0 S1_2_DRAIN N3340899 THS4531_S1 
X_S6    N3338119 0 N3338119 N3338383 THS4531_S6 
D_D14         N3336479 N3338483 TI_D 
Q_Q26         PDZ PD VEEX TI_NPN 
Q_Q15         VCCX VOCM N3338961 TI_NPN 
C_C9         N3336111 VZPOS  4.7p  
Q_Q17         VEEX N3338961 N3337145 TI_PNP 
Q_Q23         N3336085 N3337083 N3338215 TI_PNP 
V_V14         N3340585 VEE 0Vdc
X_F7    IQBE IQBF N3337083 N3338645 THS4531_F7 
D_D17         N3336111 N3341133 TI_D 
C_C2         0 N3336479  400f  
R_R23         0 N3339173  400k  
R_R36         PD VCC  10G  
G_G5         N3338993 N3338999 N3337145 N3336983 2e-3
E_E11         VEEX 0 VEE 0 1
Q_Q5         VVG IBMAIN N3338639 TI_PNP 
E_E7         N3338119 0 VIN+ VIN- -1
Q_Q16         VCCX N3336085 N3337145 TI_NPN 
D_D15         N3339361 N3336479 TI_D 
X_F8    N3339467 VEEX N3339459 VEEX THS4531_F8 
Q_Q10         PDZ PD VCCX TI_PNP 
C_C7         0 N3336145  100f  
R_R37         VCC S1_2_DRAIN  20k  
X_F13    IQB1 IQB7 VCCX N3339459 THS4531_F13 
X_S9    PD 0 N3336111 VOUT- THS4531_S9 
V_V5         VCC N3341133 1.05Vdc
D_U2         VCCX N3338639 TI_D 
X_S4    PDZ 0 S3_4_DRAIN N3340585 THS4531_S4 
G_G2         N3336479 0 N3339173 0 4e-3
X_U6         N3338639 VCCX RNL PARAMS:  R=2.5k
C_C8         N3336111 N3336145  250f  
X_F2    IQBL IQBN VCCX IBMAIN THS4531_F2 
C_C17         N3336983 VCCX  20f  
X_U4         N3373550 N3338527 VNSE
R_R33         N3339187 VCCX  10Meg  
X_S11    PDZ 0 VOUT- VOCM THS4531_S11 
C_C4         VMID VZNEG  50f  
C_C3         N3336479 N3339173  250f  
E_E5         VREF 0 N3339187 0 1
X_U7         N3339177 VCCX RNL PARAMS:  R=2.5k
X_S12    PDZ 0 VOCM VOUT+ THS4531_S12 
C_C1         0 N3339173  100f  
Q_Q9         VVG IBMAIN N3339177 TI_PNP 
G_G1         N3339173 0 N3340803 0 0.85e-3
E_E6         N3337827 0 VIN+ VIN- 1
R_R14         N3337087 VCCX  3k  
R_R35         VABS N3338383  1000  
V_V7         VVG N3338287 100mVdc
E_E10         VCCX 0 VCC 0 1
C_C16         VEEX N3336983  20f  
R_R25         VMID VZNEG  330k  
I_I2         VCC S3_4_DRAIN DC 40nAdc  
R_R34         VEEX N3339187  10Meg  
R_R28         0 N3336145  400k  
R_R30         N3336111 N3338323  200  
C_C18         0 VABS  1p  
E_E14         VMID VEE VCC VEE 0.5
X_S10    PD 0 N3336479 VOUT+ THS4531_S10 
Q_Q22         N3337083 N3337083 N3337087 TI_PNP 
D_U1         VCCX N3338225 TI_D 
V_V2         VCC N3338483 1.05Vdc
X_F5    N3338999 VEEX VZNEG VEEX THS4531_F5 
X_F3    IQB7 IQBE VCCX VEEX THS4531_F3 
V_V12         N3340899 VEE 0Vdc
E_E15         N3337249 VEEX VABS 0 0.102
I_I1         VCCX N3336787 DC 30uAdc  
X_F6    IQBF IQBL VCCX N3336839 THS4531_F6 
Q_Q19         N3338961 N3338645 N3339341 TI_NPN 
D_D16         N3336157 N3336111 TI_D 
R_R21         N3336983 VOUT+  100K  
G_G3         N3336111 0 N3336145 0 4e-3
R_R16         VEEX N3336629  3k  
R_R31         0 N3336111  570k  
V_V18         N3339459 VZPOS DC 0 AC 0 0
Q_Q1         N3339467 N3338527 N3338333 TI_PNP 
Q_Q8         IBMAIN IBMAIN N3338225 TI_PNP 
X_S5    N3337827 0 N3337827 N3338383 THS4531_S5 
C_C10         VMID VZPOS  50f  
Q_Q18         N3338645 N3338645 N3336629 TI_NPN 
R_R19         VOCM VCC  10G  
R_R22         VOUT- N3336983  100K  
C_C13         N3338323 N3338503  40p  
G_G4         N3336145 0 N3336659 0 0.85e-3

.ENDS
* END MODEL THS4531A

.subckt THS4531_F9 1 2 3 4  
F_F9         3 4 VF_F9 1
VF_F9         1 2 0V
.ends THS4531_F9

.subckt THS4531_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends THS4531_F1

.subckt THS4531_F4 1 2 3 4  
F_F4         3 4 VF_F4 1
VF_F4         1 2 0V
.ends THS4531_F4

.subckt THS4531_F10 1 2 3 4  
F_F10         3 4 VF_F10 1
VF_F10         1 2 0V
.ends THS4531_F10

.subckt THS4531_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=10e9 Ron=1.0m VH=0.3V VT=1.0V TD=0
.ends THS4531_S1

.subckt THS4531_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1e-1
.ends THS4531_S6

.subckt THS4531_F7 1 2 3 4  
F_F7         3 4 VF_F7 1.2
VF_F7         1 2 0V
.ends THS4531_F7

.subckt THS4531_F8 1 2 3 4  
F_F8         3 4 VF_F8 1
VF_F8         1 2 0V
.ends THS4531_F8

.subckt THS4531_F13 1 2 3 4  
F_F13         3 4 VF_F13 1
VF_F13         1 2 0V
.ends THS4531_F13

.subckt THS4531_S9 1 2 3 4  
S_S9         3 4 1 2 _S9
RS_S9         1 2 1G
.MODEL         _S9 VSWITCH Roff=10e6 Ron=1.0e-3 VH=0.3V VT=1.0V TD=0
.ends THS4531_S9

.subckt THS4531_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=10e6 Ron=1.0e-3 VH=0.3V VT=1.0V TD=0
.ends THS4531_S4

.subckt THS4531_F2 1 2 3 4  
F_F2         3 4 VF_F2 1
VF_F2         1 2 0V
.ends THS4531_F2

.subckt THS4531_S11 1 2 3 4  
S_S11         3 4 1 2 _S11
RS_S11         1 2 1G
.MODEL         _S11 VSWITCH Roff=10e6 Ron=1.0e-3 VH=0.3V VT=1.0V TD=0
.ends THS4531_S11

.subckt THS4531_S12 1 2 3 4  
S_S12         3 4 1 2 _S12
RS_S12         1 2 1G
.MODEL         _S12 VSWITCH Roff=10e6 Ron=1.0e-3 VH=0.3V VT=1.0V TD=0
.ends THS4531_S12

.subckt THS4531_S10 1 2 3 4  
S_S10         3 4 1 2 _S10
RS_S10         1 2 1G
.MODEL         _S10 VSWITCH Roff=10e6 Ron=1.0e-3 VH=0.3V VT=1.0V TD=0
.ends THS4531_S10

.subckt THS4531_F5 1 2 3 4  
F_F5         3 4 VF_F5 1
VF_F5         1 2 0V
.ends THS4531_F5

.subckt THS4531_F3 1 2 3 4  
F_F3         3 4 VF_F3 2
VF_F3         1 2 0V
.ends THS4531_F3

.subckt THS4531_F6 1 2 3 4  
F_F6         3 4 VF_F6 1
VF_F6         1 2 0V
.ends THS4531_F6

.subckt THS4531_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1e-1
.ends THS4531_S5
*******************************************************
.SUBCKT VNSE 1 2 
**************************
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* NLF - NV/RHZ AT (1/F) FREQ
* FLW - FREQ FOR (1/F) VAL
* NVR - NV/RHZ FLATBAND
**************************
* START CALC VALS
.PARAM NLF=5
.PARAM FLW=1
.PARAM NVR=5.0
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS VNSE
*******************************************************

.subckt RNL a b PARAMS: R=1k
*H_H1 c b VH_H1 {R}
*VH_H1 a c 0
ERES a 3 VALUE = { I(VSENSE) * R }
Rdummy 30 3 1
VSENSE 30 b DC 0V
.ends

*******************************************************
.model TI_PNP pnp

+ bf=150
+ va=120
+ rb=440
+ re=20
+ tf=2e-013
+ cjc=1e-013
+ cje=1e-013
+ kf=8.8e-015


.model TI_D d

+ is=1e-013
+ vj=0.4
+ cjo=6e-013


.model TI_NPN npn

+ bf=150
+ va=120
+ rb=190
+ re=20
+ tf=2e-013
+ cjc=1e-013
+ cje=1e-013
+ kf=5.3e-015
